US05840911
a) 2-Amino-1-benzylideneamino-4-(2-methoxyphenyl)-imidazole
A solution of 41.7 g (0.257 mol) of benzaldehyde guanylhydrazone (see Thiele, A., Liebigs Annalen der Chemie 270, 35) and 30.12 g of 2-methoxyphenacyl bromide (Aldrich, Buchs, Switzerland; 98%, Cat. no. 10,085-4) in 130 ml of ethanol is boiled under reflux for one hour. After cooling, the product that has crystallised out is filtered off with suction and recrystallized from ethanol. In that manner there is obtained the title compound, m.p. 166°-167° C., 1H-NMR (DMSO): δ=8.61 (s, 1H); 8.0 (m, 3H); 7.88 (s, 1H); 7.5 (m, 3H); 7.19 (m, 1H); 7.03 (d, 1H); 6.96 (t, 1H); 6.16 (s, 2H); 3.94 (s, 3H).

reactant | benzaldehyde guanylhydrazone | 0.257 mol, 41.7 g | C(N)(=N)NN=CC1=CC=CC=C1 | C8H10N4
reactant | 2-methoxyphenacyl bromide | 30.12 g | COC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO2
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 2-Amino-1-benzylideneamino-4-(2-methoxyphenyl)-imidazole | NC=1N(C=C(N1)C1=C(C=CC=C1)OC)N=CC1=CC=CC=C1 | C17H16N4O
